US09023760B2
Preparation of 3-(2-Chloro-4,5-dimethyl-phenyl)-4-hydroxy-8-methoxy-1-methyl-1,8-diaza-spiro[4.5]dec-3-en-2-one (compound P2.26)
To a solution of 2-(2-chloro-4,5-dimethyl-phenyl)-N-(4-cyano-1-methoxy-piperidin-4-yl)-N-methyl-acetamide (compound P4.27) (1.15 g, 3.29 mmol) in methanol (˜3 ml) at 10° C. was added concentrated sulfuric acid (0.876 ml, 16.43 mmol) dropwise and the reaction mixture was stirred at room temperature overnight. After further treatment with concentrated sulfuric acid (0.876 ml, 16.43 mmol) and stirring at 80° C. overnight, additional concentrated sulfuric acid (0.876 ml, 16.43 mmol) was added and stirring continued at 90° C. over another night. The mixture was poured on ice, neutralised carefully with 30% aqueous sodium hydroxide to pH 5-6, the resulting precipitate filtered and dried to afford a first crop of product as a beige solid (225 mg). The mother liquor was concentrated, and the residue purified by chromatography on silica gel (ethyl acetate) to further deliver 462 mg of product as a yellowish solid. Yield: 687 mg of 3-(2-chloro-4,5-dimethyl-phenyl)-4-hydroxy-8-methoxy-1-methyl-1,8-diaza-spiro[4.5]dec-3-en-2-one (title compound P2.26) as a solid, mp 191-192° C.

reactant | 2-(2-chloro-4,5-dimethyl-phenyl)-N-(4-cyano-1-methoxy-piperidin-4-yl)-N-methyl-acetamide | 3.29 mmol, 1.15 g | ClC1=C(C=C(C(=C1)C)C)CC(=O)N(C)C1(CCN(CC1)OC)C#N | C18H24ClN3O2
reactant | sulfuric acid | 16.43 mmol, 0.876 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 16.43 mmol, 0.876 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 16.43 mmol, 0.876 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | ˜3 ml | CO | CH4O
product | 3-(2-Chloro-4,5-dimethyl-phenyl)-4-hydroxy-8-methoxy-1-methyl-1,8-diaza-spiro[4.5]dec-3-en-2-one | 225 mg | ClC1=C(C=C(C(=C1)C)C)C=1C(N(C2(C1O)CCN(CC2)OC)C)=O | C18H23ClN2O3
